US08133887B2
32 g (112 mmol) of 1-hydroxy-3-pentyl-7,8,9,10-tetrahydrobenzo[c]chromen-6-one were initially introduced in 200 ml of DMF, 10 g of imidazole (145 mmol) were added, a solution of 21 g (135 mmol) of tert-butyldimethyl-silyl chloride in 100 ml of DMF was added dropwise at 0° C., and the mixture was stirred at room temp. for 20 h. MTB ether was subsequently added to the batch, which was then washed with water and dried over sodium sulfate. The solvent was removed in vacuo, and the residue was purified by chromatography with heptane/ethyl acetate (6:1), giving 44.5 g (94%) of 1-tert-butyl-dimethylsilyloxy-3-pentyl-7,8,9,10-tetrahydrobenzo[c]chromen-6-one as a yellow solid.

reactant | 1-hydroxy-3-pentyl-7,8,9,10-tetrahydrobenzo[c]chromen-6-one | 112 mmol, 32 g | OC1=C2C3=C(C(OC2=CC(=C1)CCCCC)=O)CCCC3 | C18H22O3
reactant | imidazole | 145 mmol, 10 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethyl-silyl chloride | 135 mmol, 21 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | ether | CCOCC | C4H10O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-tert-butyl-dimethylsilyloxy-3-pentyl-7,8,9,10-tetrahydrobenzo[c]chromen-6-one | 44.5 g, 94% | [Si](C)(C)(C(C)(C)C)OC1=C2C3=C(C(OC2=CC(=C1)CCCCC)=O)CCCC3 | C24H36O3Si
